US09422240B2
To a solution of 4-(bromomethyl)benzoic acid (10.7 g) in chloroform (200 mL), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (10.5 g), 1-hydroxybenzotriazole monohydrate (8.38 g), N,O-dimethylhydroxylamine hydrochloride (4.85 g), and triethylamine (6.94 mL) were added. After stirring the mixture at room temperature for 53 hours, chloroform (200 mL) was added. The mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate, a saturated aqueous solution of ammonium chloride, and saturated brine successively. After passage through a phase separator, the washed mixture was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5-40:60) to give 4-(chloromethyl)-N-methoxy-N-methylbenzamide as a colorless oil (3.23 g).

reactant | 4-(bromomethyl)benzoic acid | 10.7 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10.5 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 8.38 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.85 g | Cl.CNOC
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 6.94 mL | C(C)N(CC)CC | C6H15N
product | 4-(chloromethyl)-N-methoxy-N-methylbenzamide | 3.23 g | ClCC1=CC=C(C(=O)N(C)OC)C=C1 | C10H12ClNO2
